US08729273B2
To anhydrous dichloromethane (35 mL) was added oxalyl chloride (0.23 mL, 2.71 mmol). N,N-dimethylformamide (0.27 mL, 3.48 mmol) was added at 0° C., and the mixture was stirred for 30 min at 0° C. To this reaction solution was added 2-(1H-indol-5-yl)isonicotinic acid methyl ester (0.44 g, 1.74 mmol) obtained in Preparation 36, which was then stirred for 1 h at room temperature. The solvent was removed, tetrahydrofuran (40 mL) and 20% aqueous ammonium acetate solution (30 mL) were added, and the mixture was heated for 30 min while being stirred under reflux. The reaction solution was cooled, ethyl acetate was added, and washed with aqueous sodium bicarbonate solution. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was filtered, washed with ethyl acetate and dried to give 2-(3-formyl-1H-indol-5-yl)isonicotinic acid methyl ester.

reactant | oxalyl chloride | 2.71 mmol, 0.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 3.48 mmol, 0.27 mL | CN(C=O)C | C3H7NO
reactant | 2-(1H-indol-5-yl)isonicotinic acid methyl ester | 1.74 mmol, 0.44 g | COC(C1=CC(=NC=C1)C=1C=C2C=CNC2=CC1)=O | C15H12N2O2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2-(3-formyl-1H-indol-5-yl)isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)C=1C=C2C(=CNC2=CC1)C=O)=O | C16H12N2O3
